US05885990
Preparation of 6-amidino-1-carbamoylmethyl-2-naphthyl 4-aminoiminomethylbenzoate.dihydrochloride:
20 Milliliters of 20% hydrous pyridine and 6 ml of DMF were added to 1.0 g of 4-aminoiminomethylbenzoic acid.hydrochloride, 1.39 g of 6-amidino-1-carbamoylmethyl-2-naphthol.hydrochloride, 1.23 g of DCC and 60.8 mg of DMAP, followed by stirring for 2 hours under cooling with ice and then 24 hours at room temperature. Then, the precipitate was filtered and the filtrate was concentrated under reduced pressure. To the residue was added 20 ml of DMF, and the resulting solution was added dropwise to 400 ml of acetone, followed by stirring for 24 hours under cooling with ice. Then, the precipitate was collected by filtration to obtain a crude product. Then, the product was subjected to silica gel column chromatography using methyl ethyl ketone-water-formic acid (80:15:5) as an eluent, and the desired fractions were collected and the solvent was distilled off under reduced pressure. To the residue were added 10 ml of methanol and 0.9 ml of concentrated hydrochloric acid, and the resulting solution was added dropwise to 200 ml of acetone, followed by stirring for 2 hours under cooling with ice. Then, the precipitate was collected by filtration to obtain 80.2 mg of the desired product.

reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | 4-aminoiminomethylbenzoic acid.hydrochloride | 1.0 g | Cl.NN=CC1=CC=C(C(=O)O)C=C1
reactant | 6-amidino-1-carbamoylmethyl-2-naphthol.hydrochloride | 1.39 g | Cl.C(N)(=N)C=1C=C2C=CC(=C(C2=CC1)CC(N)=O)O
reactant | DCC | 1.23 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
catalyst | DMAP | 60.8 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | methyl ethyl ketone water formic acid | C(C)C(=O)C.O.C(=O)O
solvent | DMF | 6 ml | CN(C)C=O | C3H7NO
product | 6-amidino-1-carbamoylmethyl-2-naphthyl 4-aminoiminomethylbenzoate.dihydrochloride | 80.2 mg | Cl.Cl.NN=CC1=CC=C(C(=O)OC2=C(C3=CC=C(C=C3C=C2)C(N)=N)CC(N)=O)C=C1 | InChI=1S/C21H19N5O3.2ClH/c22-19(27)10-17-16-7-5-15(20(23)24)9-14(16)6-8-18(17)29-21(28)13-3-1-12(2-4-13)11-26-25;;/h1-9,11H,10,25H2,(H2,22,27)(H3,23,24);2*1H
